US07109203B2
A stirred solution of {(4-bromo-2-chloro-benzenesulfonyl)-[2-(indan-5-yloxy)-ethyl]-amino}-acetic acid methyl ester (2.8 g) in THF (22 ml)-water (22 ml) at 15° C. is treated dropwise with 1 M aqueous sodium hydroxide solution (28 ml), and the resulting mixture stirred for 3 hours. The mixture is then diluted with ice-cold water (200 ml), acidified to pH 1 with 1 M hydrochloric acid, and extracted with ethyl acetate (2×100 ml). The combined extracts are washed successively with water (100 ml) and then brine, dried over magnesium sulfate, filtered and evaporated. The resulting solid is triturated with hexane, collected by filtration and dried, to afford {(4-bromo-2-chloro-benzenesulfonyl)-[2-(indan-5-yloxy)-ethyl]-amino}-acetic acid [retention time 7.6 min/HPLC conditions: Kingsorb 3 micron, 30×4.6 mm C 18 column, Gradient elution 10 to 100% acetonitrile in water (+0.1% trifluoroacetic acid) over 10 min]. 1H NMR (DMSO-d6) δ=12.88 (broad s, 1H), 7.94 (d, 1H), 7.90 (d, 1H), 7.71 (dxd, 1H), 7.03 (d, 1H), 6.50 (s, 1H), 6.43 (dxd, 1H), 4.26 (s, 2H), 3.97 (t, 2H), 3.65 (t, 2H), 2.79 (t, 2H), 2.75 (t, 2H), 1.98 (m, 2H).

reactant | {(4-bromo-2-chloro-benzenesulfonyl)-[2-(indan-5-yloxy)-ethyl]-amino}-acetic acid methyl ester | 2.8 g | COC(CN(CCOC=1C=C2CCCC2=CC1)S(=O)(=O)C1=C(C=C(C=C1)Br)Cl)=O | C20H21BrClNO5S
reactant | water | 22 ml | O | H2O
reactant | sodium hydroxide | 1 M, 28 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | THF | 22 ml | C1CCOC1 | C4H8O
product | {(4-bromo-2-chloro-benzenesulfonyl)-[2-(indan-5-yloxy)-ethyl]-amino}-acetic acid | BrC1=CC(=C(C=C1)S(=O)(=O)N(CCOC=1C=C2CCCC2=CC1)CC(=O)O)Cl | C19H19BrClNO5S
